US07244725B2
A. 3-Bromo-benzylamine
3-Bromo-benzylamine HCl salt (0.75 g) was dissolved in 10 mL 15% IPA in CH2Cl2. 7 drops of 10N Sodium Hydroxide (NaOH) was added and stirred for 3 minutes. To the reaction mixture, 5 mL of dH2O was added and stirred for 5 minutes. The IPA/CH2Cl2 layer was extracted. The aqueous layer was rinsed with 10 mL 15% IPA in CH2Cl2. All organic layers were added together and concentrated under vacuum. MS (ESI+) for C7H8BrN m/z 186.3 (M+H)+

reactant | 3-Bromo-benzylamine HCl salt | 0.75 g | Cl.BrC=1C=C(CN)C=CC1
solvent | IPA | 10 mL | CC(C)O | C3H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Sodium Hydroxide | 10N, 7 drops | [OH-].[Na+]
product | 3-Bromo-benzylamine | BrC=1C=C(CN)C=CC1 | C7H8BrN
